US04917731
1(b) Preparation of 3-Hydroxyphenylglycine
9.2 g of monochloroacetic acid are introduced into 40 ml of water and converted into the lithium salt with 4.1 g of lithium hydroxide monohydrate. 10.4 g of 3-aminophenol are then added and the mixture is stirred at 90° C. for 2 hours. It is then cooled to 20° C. and brought to pH 7 with sodium carbonate.

reactant | monochloroacetic acid | 9.2 g | ClCC(=O)O | C2H3ClO2
reactant | lithium | [Li] | Li
reactant | lithium hydroxide monohydrate | 4.1 g | O.[OH-].[Li+]
reactant | 3-aminophenol | 10.4 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 40 ml | O | H2O
product | 3-Hydroxyphenylglycine | OC=1C=C(C=CC1)NCC(=O)O | C8H9NO3
